US06403633B2
Methyl 5-methylthio-4-[2-(2-naphthoylamino)(1,3-thiazol-4-yl)]thiophene-2-carboxylate hydrohromide: Methyl 4-(2-bromoacetyl)-5-methylthiothiophene-2-carboxylate (65 mg, 0.21 mmol) was allowed react with 2-napthylthiourea (42.4 mg) as described in Example 154, step (a) to give 82.5 mg (80% yield) of methyl 5-methylthio-4-[2-(2-naphthylamino)(1,3-thiazol-4-yl)]thiophene-2-carboxylate hydrobromide. 1H NMR (DMSO-d6, 300 MHz) δ 2.67 (s, 3H), 3.83 (s, 3 H), 7.31 (s, 1H), 7.50-7.67 (m, 4H), 7.93 (m, 1H), 8.15 (s, 1H), 8.31-8.35 (m, 1H), 8.46 (d, 1H, J=7.6), 10.22 (s, 1H)); Mass Spectrum (ESI) m/z calcd. for C20H16N2O2S3, 412.6 (M+H), found 413.1.

reactant | Methyl 5-methylthio-4-[2-(2-naphthoylamino)(1,3-thiazol-4-yl)]thiophene-2-carboxylate | CSC1=C(C=C(S1)C(=O)OC)C=1N=C(SC1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C21H16N2O3S3
reactant | Methyl 4-(2-bromoacetyl)-5-methylthiothiophene-2-carboxylate | 0.21 mmol, 65 mg | BrCC(=O)C=1C=C(SC1C)C(=S)OC | C9H9BrO2S2
reactant | 2-napthylthiourea | 42.4 mg | C1=C(C=CC2=CC=CC=C12)NC(=S)N | C11H10N2S
product | methyl 5-methylthio-4-[2-(2-naphthylamino)(1,3-thiazol-4-yl)]thiophene-2-carboxylate hydrobromide | 82.5 mg, 80% yield | Br.CSC1=C(C=C(S1)C(=O)OC)C=1N=C(SC1)NC1=CC2=CC=CC=C2C=C1 | InChI=1S/C20H16N2O2S3.BrH/c1-24-18(23)17-10-15(19(25-2)27-17)16-11-26-20(22-16)21-14-8-7-12-5-3-4-6-13(12)9-14;/h3-11H,1-2H3,(H,21,22);1H
